Learning Altium Simulation
*SPICE Netlist generated by Advanced Sim server on 2022-11-20 12:56:51 AM
.options MixedSimGenerated

*Schematic Netlist:
DD? NetD?_1 0 diode
RR? NetR?_1 NetD?_1 1K TC1=0 TC2=0
VV? NetR?_1 0 5 AC 1 0

.PROBE {p(D?)} =PLOT(1) =AXIS(2) =UNITS(W)
.PROBE {V(NetR?_1)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetD?_1)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.DC V? 0 5.000 500.0m

*Models and Subcircuits:
.MODEL diode D ()

.END